US06426345B1
To a solution of N-(3-nitrophenyl)maleimide (26.3 g) in methanol-dioxane (1:1) was added suspension of palladium on carbon (2 g) in water. The reaction mixture was hydrogenated for 4 hours at 3 atm. (White crystal was precipitated.) The mixture was added 1N hydrochloric acid (ca. 300 ml) to dissolve the crude product. The mixture was filtrated and evaporated. Obtained residue was dissolved in water and basified by aqueous sodium hydrogencarbonate. Precipitate was collected by suction to give N-(3-aminophenyl)succinimide (12.6 g).

reactant | N-(3-nitrophenyl)maleimide | 26.3 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(C=CC1=O)=O | C10H6N2O4
catalyst | palladium on carbon | 2 g | [Pd] | Pd
solvent | water | O | H2O
product | N-(3-aminophenyl)succinimide | 12.6 g | NC=1C=C(C=CC1)N1C(CCC1=O)=O | C10H10N2O2
